US07935699B2
3-Nitro-1-butyl-1H-pyrazole (111 mg, 0.66 mmol) was dissolved in ethyl acetate (3 mL) and methanol (3 mL) was added. Palladium, 10 wt. % on activated carbon, wet (˜50 mg) was added to the reaction. The vial was charged with hydrogen gas (via balloon) and the reaction stirred for 16 h at 25° C. The reaction was passed through a plug of celite and concentrated in vacuo to afford 1-butyl-1H-pyrazol-3-ylamine (82 mg, 90%) as a golden oil: ESI-LRMS m/e calcd for C7H13N3 [M+] 139.12, found 140.3 [M+H+].

reactant | 3-Nitro-1-butyl-1H-pyrazole | 0.66 mmol, 111 mg | [N+](=O)([O-])C1=NN(C=C1)CCCC | C7H11N3O2
reactant | methanol | 3 mL | CO | CH4O
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 3 mL | C(C)(=O)OCC | C4H8O2
catalyst | Palladium | [Pd] | Pd
product | 1-butyl-1H-pyrazol-3-ylamine | 82 mg, 90% | C(CCC)N1N=C(C=C1)N | C7H13N3
